US05977141
(a) (±)-2-Amino-5-phenyl-pentanoic acid
A stirred suspension of (±)-2-(acetylamino)-5-phenyl-pentanoic acid (0.5003 g, 0.002126 mol) in 2.8 M hydrochloric acid was refluxed for 2 hours, and the resulting brown solution was allowed to cool. A tan precipitate formed upon cooling. The solids were filtered off, and the filtrate was rotary evaporated to give a yellow gum. The gum was dissolved in hot water, gravity filtered, and allowed to cool. The mixture was made basic with 1 M sodium hydroxide to pH=5. The resulting precipitate was filtered off, washed with water, and dried in vacuo to give a yellow solid; yield 0.205 g (50%), mp=213-215° C.

reactant | (±)-2-(acetylamino)-5-phenyl-pentanoic acid | 0.002126 mol, 0.5003 g | C(C)(=O)NC(C(=O)O)CCCC1=CC=CC=C1 | C13H17NO3
solvent | hydrochloric acid | 2.8 M | Cl | ClH
solvent | water | O | H2O
product | (±)-2-Amino-5-phenyl-pentanoic acid | NC(C(=O)O)CCCC1=CC=CC=C1 | C11H15NO2
